### PR TITLE
feat(Paper): Zagier Conjecture

### PR DESCRIPTION
**Pull request by jeangud**
# Description
> Let $𝒵_k$ denote the ℚ-vector space (subspace of ℝ) spanned by all MZVs of weight $k$. **Zagier's conjecture** states that the ℚ-dimension $d_k$ of $𝒵_k$ satisfies:
> 
> $$\dim_ℚ(𝒵_k) = d_k$$
> 
> with $(d_n)_{n \in ℕ}$ the sequence defined by following recurrence:
> - $d_0 = 1$
> - $d_1 = 0$
> - $d_2 = 1$
> - $d_k = d_{k-2} + d_{k-3}$ for $k \ge 3$

- Addresses #3814 
- First time I propose an implementation not on a already-prepared conjecture description. Hopefully I prepared #3814 correctly and constrained it enough🤞.
- I decomposed the formalization into quite a few intermediate constructs to make it modular. As mentioned in the TODO, there are a few other conjectures which could likely benefit from these constructs.
- :robot: Initial draft generated with Gemini 3.1 Pro, and then iteratively refined manually for style and modularity. The proofs for the tests `no_admissible_weight_one`, `dim_mzv_weight_zero`, `dim_mzv_weight_one` were generated by Gemini 3.1 Pro.

# Testing 
:white_check_mark: Verified this builds fine
```shell
$ lake build FormalConjectures/Paper/ZagierMZV.lean 
Build completed successfully (7982 jobs).
```

### CODE REVIEW

File: FormalConjectures/Paper/ZagierMZV.lean [hunk 1]
```diff
@@ -0,0 +1,210 @@
...
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Zagier's Conjecture on Multiple Zeta Values
+
+*References:*
+- [Za94] Zagier, Don. "Values of zeta functions and their applications."
+  First European Congress of Mathematics Paris, July 6–10, 1992: Vol. II: Invited Lectures (Part 2). Basel: Birkhäuser Basel, 1994.
+- [Co18] Combariza, Germán AG. "A few conjectures about the multiple zeta values."
+  ACM Communications in Computer Algebra 52.1 (2018): 11-20.
```
Comment (mo271) [inline FormalConjectures/Paper/ZagierMZV.lean:26]:
```suggestion
  ACM Communications in Computer Algebra 52.1 (2018): 11-20.
- [OEIS A000931](https://oeis.org/A000931)
```

File: FormalConjectures/Paper/ZagierMZV.lean [hunk 2]
```diff
@@ -0,0 +1,210 @@
...
+  | [], _ => 1
+  | s :: rest, bound => ∑ m ∈ Finset.range bound, (1 / (m + 1 : ℝ) ^ s) * aux rest m
+
+/-- The *weight* of an MZV index $(s_1, \ldots, s_k)$ is $s_1 + \cdots + s_k$. -/
+def weight (s : List ℕ) : ℕ := s.sum
+
+/--
+An MZV index is *admissible* if it is nonempty and the first entry is at least 2
+(ensuring convergence), and all entries are positive.
+-/
```
Comment (mo271) [inline FormalConjectures/Paper/ZagierMZV.lean:63]:
```suggestion
/--
An MZV index is *admissible* if it is either empty or if the first entry is at least 2
and all entries are positive. The empty list convention ensures $\mathcal{Z}_0 = \mathbb{Q}$.
-/
```

File: FormalConjectures/Paper/ZagierMZV.lean [hunk 3]
```diff
@@ -0,0 +1,210 @@
...
+/--
+**Zagier's conjecture**
+
+The $\mathbb{Q}$-dimension of the vector space spanned by all multiple zeta values
+of weight $n$ equals $d_n$, where $d_n$ is the Zagier dimension sequence
+satisfying $d_0 = 1$, $d_1 = 0$, $d_2 = 1$, and $d_n = d_{n-2} + d_{n-3}$ for $n \geq 3$.
+-/
+@[category research open, AMS 11]
+theorem zagier_conjecture :
+    answer(sorry) ↔ ∀ n : ℕ, Module.rank ℚ (mzvSpanOfWeight n) = zagierDim n := by
```
Comment (mo271) [inline FormalConjectures/Paper/ZagierMZV.lean]: The main conjecture and upper bound use Module.rank (returning a Cardinal), while the test theorems use `Module.finrank` (returning ℕ). Since the conjecture implies finite dimensionality (via the upper bound), using `Module.finrank : ℕ` everywhere would be more natural and avoid implicit ℕ → Cardinal coercions. This is a minor style issue, not a mathematical error.

File: FormalConjectures/Paper/ZagierMZV.lean [hunk 4]
```diff
@@ -0,0 +1,210 @@
...
+  sorry
+
+/--
+**Upper bound** (Terasoma, Deligne–Goncharov).
```
Comment (mo271) [inline FormalConjectures/Paper/ZagierMZV.lean]: please add a reference or two to Terasoma, Deligne–Goncharov above

File: FormalConjectures/Paper/ZagierMZV.lean [hunk 5]
```diff
@@ -0,0 +1,210 @@
...
+-- Tests
+-- %%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%
+
+/-- The first few values of $d_n$ are $1, 0, 1, 1, 1, 2, 2, 3, 4, 5, 7, 9, \ldots$ -/
+@[category test, AMS 11]
+theorem zagierDim_first_values :
+    [zagierDim 0, zagierDim 1, zagierDim 2, zagierDim 3, zagierDim 4,
+     zagierDim 5, zagierDim 6, zagierDim 7, zagierDim 8, zagierDim 9] =
+    [1, 0, 1, 1, 1, 2, 2, 3, 4, 5] := by
+  native_decide
```
Comment (mo271) [inline FormalConjectures/Paper/ZagierMZV.lean]:
```suggestion
  decide
```

also works, right?

**Review by mo271 — APPROVED** [review]
Thanks, nice conjectures and looks mathematically correct to me!

Just some minor suggestions...

File: FormalConjectures/Paper/ZagierMZV.lean (hunk 5 above)
Comment (jeangud) [reply FormalConjectures/Paper/ZagierMZV.lean]: Yes it does 👍

File: FormalConjectures/Paper/ZagierMZV.lean (hunk 3 above)
Comment (jeangud) [reply FormalConjectures/Paper/ZagierMZV.lean]: Good point, fixed

File: FormalConjectures/Paper/ZagierMZV.lean (hunk 4 above)
Comment (jeangud) [reply FormalConjectures/Paper/ZagierMZV.lean]: Done ✅

**Comment by jeangud** [comment]
Yes I found this conjecture quite interesting!

Thank you for the review @mo271

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!
